US04514212
(d) N-[2-(2,3-dichloropropyloxy)-phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea
2.13 g of chlorine are introduced within 20 minutes into a solution of 11.37 g of N-(2-allyloxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea in 100 ml of methylene chloride at a temperature of 0° C. The reaction mixture is stirred for a further 18 hours at room temperature. After addition of petroleum ether, the product is precipitated. Yield: 12.1 g of N-[2-(2,3-dichloropropyloxy)-phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea with a melting point of 117°-118° C.

reactant | chlorine | 2.13 g | ClCl | Cl2
reactant | N-(2-allyloxyphenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 11.37 g | C(C=C)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C15H17N5O5S
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(2,3-dichloropropyloxy)-phenylsulfonyl]-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | ClC(COC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C)CCl | C15H17Cl2N5O5S
